US09126970B2
Step a): 4-(7-Bromo-12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluoren-10-yl)-4′-(12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluoren-10-yl)biphenyl
9.42 g (13.1 mmol) of 4,4′-bis(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl are initially introduced in 77 ml of THF. A solution of 2.36 g (13.2 mmol) of NBS in 25 ml of THF is subsequently added dropwise at −15° C. with exclusion of light, allowed to come to room temperature and stirred at this temperature for a further 4 h. 150 ml of water are subsequently added to the mixture, which is then extracted with CH2Cl2. The organic phase is dried over MgSO4, and the solvents are removed in vacuo. The product is washed by stirring with hot ethanol and filtered off with suction. The yield is 7.5 g (9.4 mmol, 72%).

reactant | 4,4′-bis(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl | 13.1 mmol, 9.42 g | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=CC=C3C1C2)C2=CC=C(C=C2)C2=CC=C(C=C2)N2C1=CC=CC=C1C=1C=C3C(=CC21)C(C2=CC=CC=C23)(C)C)C | C54H40N2
reactant | NBS | 13.2 mmol, 2.36 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 150 ml | O | H2O
solvent | THF | 77 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-(7-Bromo-12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluoren-10-yl)-4′-(12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluoren-10-yl)biphenyl | BrC=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)C(C1=CC=CC=C14)(C)C | C54H39BrN2
